US08008481B2
To a solution of 7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamine (Example #F.8.1, 530 mg, 2.0 mmol) and methyl chlorothioformate (0.25 mL, 2.8 mmol) in ethanol (10 mL) was added triethylamine (0.56 mL, 4.0 mmol). The reaction mixture was stirred at ambient temperature for about 16 hours and the resulting solid was collected by filtration, washed with water (3×50 mL), and dried to yield (7-benzo[b]thiophen-2-yl-1H-indazol-5-yl)-thiocarbamic acid S-methyl ester (448 mg, 66%); LC/MS (Table 1, Method e) Rt 2.14 min; m/z: [M−H]− 338.

reactant | 7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamine | 2.0 mmol, 530 mg | S1C2=C(C=C1C=1C=C(C=C3C=NNC13)N)C=CC=C2 | C15H11N3S
reactant | methyl chlorothioformate | 2.8 mmol, 0.25 mL | ClC(=S)OC | C2H3ClOS
reactant | triethylamine | 4.0 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (7-benzo[b]thiophen-2-yl-1H-indazol-5-yl)-thiocarbamic acid S-methyl ester | 448 mg, 66% | CSC(NC=1C=C2C=NNC2=C(C1)C1=CC2=C(S1)C=CC=C2)=O | C17H13N3OS2
